US07601856B2
Following the procedure of Example 1, 2,3-dihydro-1H-cyclopenta[b]benzofuran-7-ylamine (0.69 g, 4.0 mmol) and isovaleryl chloride (0.55 mL, 4.4 mmol) in pyridine (10 mL) provided N-(2,3-Dihydro-1 H-cyclopenta[b]benzofuran-7-yl)-3-methyl-butyramide (0.67 g). Mp 162.0-163.0° C.; Anal. Calcd. for C16H19NO2: C, 74.68; H, 7.44; N, 5.44; Found: C, 74.67; H, 7.70; N, 5.39.

reactant | 2,3-dihydro-1H-cyclopenta[b]benzofuran-7-ylamine | 4.0 mmol, 0.69 g | C1CCC=2OC3=C(C21)C=C(C=C3)N | C11H11NO
reactant | isovaleryl chloride | 4.4 mmol, 0.55 mL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,3-Dihydro-1 H-cyclopenta[b]benzofuran-7-yl)-3-methyl-butyramide | 0.67 g | C1CCC=2OC3=C(C21)C=C(C=C3)NC(CC(C)C)=O | C16H19NO2
